US07166598B2
Carbon tetrabromide (3.08 g) was added portion wisely to a solution of 4-fluoro-3-methylbenzylalcohol (1.3 g) and triphenylphosphine (2.9 g) in methylene chloride (50 ml) and the mixture was stirred for 1 hour. The solution was washed successively with saturated aqueous sodium hydrogen carbonate solution and brine, dried over sodium sulfate, and evaporated in vacuo. The residue was triturated with hexane and the resulting precipitate was removed by filtration. The filtrate was evaporated in vacuo and the residue was purified by column chromatography on silica gel with hexane as eluent to give 4-fluoro-3-methylbenzylbromide (1.28 g) as an oil.

reactant | Carbon tetrabromide | 3.08 g | C(Br)(Br)(Br)Br | CBr4
reactant | 4-fluoro-3-methylbenzylalcohol | 1.3 g | FC1=C(C=C(CO)C=C1)C | C8H9FO
reactant | triphenylphosphine | 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-fluoro-3-methylbenzylbromide | 1.28 g | FC1=C(C=C(CBr)C=C1)C | C8H8BrF
